US08049013B2
3-(2-Bromo-thiazol-4-yl)-acrylic acid methyl ester
Dissolve 2-bromothiazole-4-carbaldehyde (3.00 g, 15.62 mmol) in tetrahydrofuran (52 mL) and add methyl(triphenylphosphoranylidene)acetate (5.33 g. 15.62 mmol). Stir the mixture overnight at room temperature. Dilute the mixture with water and extract twice using diethyl ether. Dry the combined organics over sodium sulfate, filter, and concentrate. Purify via silica gel chromatography using a 0-30% gradient of EtOAc/hexanes to give 3.13 g (81%) of the title compound as a white solid.

reactant | 2-bromothiazole-4-carbaldehyde | 15.62 mmol, 3.00 g | BrC=1SC=C(N1)C=O | C4H2BrNOS
reactant | methyl(triphenylphosphoranylidene)acetate | 15.62 mmol, 5.33 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | tetrahydrofuran | 52 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(2-Bromo-thiazol-4-yl)-acrylic acid methyl ester | 3.13 g, 81% | COC(C=CC=1N=C(SC1)Br)=O | C7H6BrNO2S
